US04017621
A mixture of 5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine (0.2 g), potassium carbonate (0.1 g) and ethylenebromohydrin (0.1 g) in water and ethanol was stirred under reflux for 10 hours. The reaction mixture was concentrated and extracted with chloroform. The chloroform extract was washed with water, dried over anhydrous sodium sulfate and evaporated to afford 5-(4-hydroxyethyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine as an oily substance. M.P. 186°-188° C (oxalate).

reactant | 5-(2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 0.2 g | N1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H22N2O
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylenebromohydrin | 0.1 g | C(CO)Br | C2H5BrO
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-hydroxyethyl-2-morpholinylmethyl)-10,11-dihydro-5H-dibenz[b,f]azepine | OCCN1CC(OCC1)CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C21H26N2O2
